US07173135B2
iv) Preparation of 4-chloro-3-cyano-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinoline
A mixture of 3-cyano-4-hydroxy-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinoline (500 mg) and phosphoryl chloride (2.5 ml) in acetonitrile (1.5 ml) was refluxed and stirred for 4 hours. After cooling, the solution was evaporated to dryness. The flask containing the residue was filled with ice chips and excess concentrated aqueous ammonia (25 ml) was added. This mixture was allowed to warm up while stirring overnight. The product was filtered off and air-dried. The title compound was obtained as a white solid (480 mg, 92%); Mass spectrum: M+H+ 432.

reactant | 3-cyano-4-hydroxy-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinoline | 500 mg | C(#N)C=1C=NC2=CC(=CC(=C2C1O)OC1CCOCC1)OCCCN1CCOCC1 | C22H27N3O5
reactant | phosphoryl chloride | 2.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 4-chloro-3-cyano-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinoline | ClC1=C(C=NC2=CC(=CC(=C12)OC1CCOCC1)OCCCN1CCOCC1)C#N | C22H26ClN3O4
